Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[O:7][C:8]([H:9])([H:10])[H:11],1.21031023739
[C:1]#[C:2][O:3][C:4]([H:5])=[C:7]=[O:8].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8],-2.41816265035
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-1.61709366197
[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.33632825667
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[O:8][H:9],-1.8031839695700005
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],2.90928032551
[H:7].[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.16493971656
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]1>>[H:1][C:2](=[O:3])[O:13][C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12],-0.332063144489
[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:5]=[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4][O:9][H:10],4.578243485940001
[C:1]#[C:2][C@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[H:9],-1.60359453057
[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.61034032201
[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.0072547505
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],5.12537001044
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:7].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[H:11])[H:6],2.82061119815
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1],3.48228806981
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.0273845795799998
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.416757908120001
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.2832061539599975
[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:4]([H:5])[O:10][H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.69640123956
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]#[C:14][H:15],1.98023613379
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.47346251812
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.56372626635
[H:1][C:2][C:3]1([H:4])[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],0.2059017578
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:10]([H:11])([H:12])[H:13],6.828218497309999
[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[O:8][H:9]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:8][H:9],2.49022108329
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12].[H:13],5.13625988562
[H:1][C:2].[O:3]=[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9],-2.48790026433
[H:1][C:2]1=[C:3][O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2](=[C:3]=[O:4])[C:11]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],-0.62866028518
[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-0.415377249621
